US06969711B2
Preparation of 2-[4-[2-(benzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,6-diisopropyl-3-(2-ethoxyethyloxy)phenyl)acetamide:
2-Bromoethyl ethyl ether (2 ml) and potassium fluoride catalyst carried on alumina (40 wt %, 225 mg, 1.51 mmol) were added to a solution of 2-[4-[2-(benzoxazol-2ylthio)ethyl]piperazin-1-yl]-N-(2,6-diisopropyl-3-hydroxyphenyl)acetamide (150 mg, 0.30 mmol) in acetonitrile (3 ml) followed by stirring for 41 hours. The catalyst was filtered off and the filtrate was diluted with water and extracted with ethyl acetate. The organic layer was washed with a sodium chloride solution and dried over anhydrous sodium sulfate and the solvent was evaporated therefrom. The residue was purified by a preparative thin layer chromatography (developing solvent, chloroform:ammonia-saturated methanol=20:1) and the resulting crude crystals were recrystallized from ethyl acetate-hexane to provide 120 mg (yield 70%) of the desired compound as colorless powdery crystals.

reactant | 2-Bromoethyl ethyl ether | 2 ml | C(C)OCCBr | C4H9BrO
reactant | 2-[4-[2-(benzoxazol-2ylthio)ethyl]piperazin-1-yl]-N-(2,6-diisopropyl-3-hydroxyphenyl)acetamide | 0.30 mmol, 150 mg | O1C(=NC2=C1C=CC=C2)SCCN2CCN(CC2)CC(=O)NC2=C(C(=CC=C2C(C)C)O)C(C)C | C27H36N4O3S
catalyst | potassium fluoride | [F-].[K+]
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 2-[4-[2-(benzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2,6-diisopropyl-3-(2-ethoxyethyloxy)phenyl)acetamide | 120 mg, yield 70% | O1C(=NC2=C1C=CC=C2)SCCN2CCN(CC2)CC(=O)NC2=C(C(=CC=C2C(C)C)OCCOCC)C(C)C | C31H44N4O4S
